US05474994
A mixture of 5.52 g of 8-hydroxy-2-hydroxymethyl-1,4-benzodioxan (prepared as described in EP 210581), 4.2 g of anhydrous potassium carbonate and 2.06 ml of methyl iodide in 75 ml of anhydrous dimethylformamide was stirred at 45° C. for 8 hours. Methyl iodide (1 ml) was added to the mixture and stirring continued at the same temperature. After 8 hours, 1 ml of methyl iodide and 2.1 g of potassium carbonate were further added, and the reaction mixture was stirred at 45° C. for 6 hours. Thereafter, the mixture was cooled to room temperature, poured into water and extracted with ethyl acetate. The organic layer was washed with 6N aqueous sodium hydroxide solution, water, then dried on sodium sulfate. Evaporation of the organic layer to dryness in vacuo afforded 5.35 g of 2-hydroxymethyl-8-methoxy- 1,4-benzodioxan, which was used in the next step without further purification.

reactant | 8-hydroxy-2-hydroxymethyl-1,4-benzodioxan | 5.52 g | OC1=CC=CC2=C1OC(CO2)CO | C9H10O4
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.06 ml | CI | CH3I
reactant | Methyl iodide | 1 ml | CI | CH3I
reactant | methyl iodide | 1 ml | CI | CH3I
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-hydroxymethyl-8-methoxy- 1,4-benzodioxan | 5.35 g | OCC1COC2=C(O1)C(=CC=C2)OC | C10H12O4
